US04039511
Alternatively, the sulfonyl halide may be reacted with bisphenolate in the first stage in a molar ratio of more than 1:1 to 2:1 under the reaction conditions described. For example, if one mole of disodium-bis-(4-hydroxyphenyl)-sulfone is reacted with 2 moles of benzene sulfochloride, there is obtained bis-(4-phenylsulfonyloxyphenyl)-sulfone, which may then be condensed, in the subsequent polycondensation stage, again with one mole of disodium-bis-(4-hydroxyphenyl)-sulfone to form the polyether. This condensation is preferably carried out in a solvent which has already been used for the synthesis of the alkali metal salt. At a lower excess of sulfonyl halide, e.g. a ratio of from 1.5:1, there are obtained in the first stage mixtures of bis-(4-phenylsulfonyloxyphenol)-sulfone and the sodium salt of 4-(4-phenylsulfonyloxyphenyl-sullfone)-phenol, which may then be condensed with appropriately smaller quantities of disodium-bis-(4-hydroxyphenyl)-sulfone to form the polyethers.

reactant | disodium bis-(4-hydroxyphenyl)-sulfone | one mole | [Na][Na].OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | benzene sulfochloride | 2 moles | S(=O)(=O)(O)Cl.C1=CC=CC=C1
product | bis-(4-phenylsulfonyloxyphenyl)-sulfone | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=CC=C1 | C24H18O8S3
